US06107308
Synthesis of 1-tert-butoxycarbonyl-4-(2-quinolylmethyl)-1,2,5,6-tetrahydropyridine:
1-tert-Butoxycarbonyl-4-hydroxy-4-(2-quinolylmethyl)piperidine (5.95 g) was dissolved in anhydrous THF (50 ml), and methane sulfonylchloride (2.99 g) and triethylamine (7.3 ml) were added to the solution. The mixture was stirred at room temperature for two hours and concentrated under reduced pressure. Water and ethyl acetate were added to the mixture to thereby separate an organic phase, which was further washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was dissolved in toluene (50 ml), and DBU (5.30 g) was added to the solution. The mixture was stirred at 60° C. for three hours and concentrated under reduced pressure. Water and ethyl acetate were added to the mixture to thereby separate an organic phase, which was further washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography (developer: hexane-ethyl acetate (1:1)). The title compound was obtained through crystallization from hexane.

reactant | 1-tert-Butoxycarbonyl-4-hydroxy-4-(2-quinolylmethyl)piperidine | 5.95 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC1=NC2=CC=CC=C2C=C1)O | C20H26N2O3
reactant | methane sulfonylchloride | 2.99 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 7.3 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-(2-quinolylmethyl)-1,2,5,6-tetrahydropyridine | C(C)(C)(C)OC(=O)N1CC=C(CC1)CC1=NC2=CC=CC=C2C=C1 | C20H24N2O2
